### PR TITLE
Poly1305

### PR DESCRIPTION
**Pull request by kritkorn96**

### CODE REVIEW

File: src/Experiments/poly1305.v [hunk 1]
```diff
@@ -0,0 +1,336 @@
...
+      - simpl. rewrite homomorphism. rewrite IHl. reflexivity.
+    Admitted.
+    Lemma homomorphism_sum_from_to f a b:
+      eq (phi (sum_from_to OP ID a b (fun i => f i))) (sum_from_to op id a b (fun i => phi (f i))).
+    Proof.
+      unfold sum_from_to. rewrite <-(map_map _ phi). apply homomorphism_sum.
+    Qed.
+ End Homomorphism.
+
+Section m_prime.
```
Comment (JasonGross) [inline src/Experiments/poly1305.v]: You're missing a corresponding `End m_prime.`.  (This is what travis is complaining about.)
